US07091214B2
tert-Butyl 4-[(4-amino-7-bromo-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)methyl]piperidine-1-carboxylate (12.79 g, 24.67 mmol) and pyrdine-3-boronic acid 1,3-propanediol cyclic ester (4.42 g, 27.14 mmol) were coupled according to the method described in Examples 118–121. The work-up procedure described in Part F of Examples 125–135 was followed. The crude product was recrystallized twice from ethyl acetate to provide 10.89 g of tert-butyl 4-{[4-amino-2-ethoxymethyl-7-(pyridin-3-yl)-1H-imidazo[4,5-c]quinolin-1-yl]methyl}piperidine-1-carboxylate as an off-white solid, mp 197–198° C.

reactant | tert-Butyl 4-[(4-amino-7-bromo-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)methyl]piperidine-1-carboxylate | 24.67 mmol, 12.79 g | NC1=NC=2C=C(C=CC2C2=C1N=C(N2CC2CCN(CC2)C(=O)OC(C)(C)C)COCC)Br | C24H32BrN5O3
reactant | pyrdine-3-boronic acid 1,3-propanediol cyclic ester | 27.14 mmol, 4.42 g | B1(OCCCO1)C2=CN=CC=C2 | C8H10BNO2
product | tert-butyl 4-{[4-amino-2-ethoxymethyl-7-(pyridin-3-yl)-1H-imidazo[4,5-c]quinolin-1-yl]methyl}piperidine-1-carboxylate | 10.89 g | NC1=NC=2C=C(C=CC2C2=C1N=C(N2CC2CCN(CC2)C(=O)OC(C)(C)C)COCC)C=2C=NC=CC2 | C29H36N6O3
